US07960365B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid 4-(5-chloro-2-methoxy-pyridin-3-yl)-3-trifluoromethoxy-benzylamide
To 4-hydroxy-3-trifluoromethoxy-benzylaldehyde (1.0 g, 4.85 mmol) in dry pyridine (4 ml) at 0° C. was slowly added trifluoromethane sulfonic anhydride maintaining the reaction temperature at 0° C. The mixture was allowed to warm to ambient temperature and left to stir for 1 h. The reaction mixture was quenched with water (50 ml) and extracted with ethyl acetate. The combined extracts were washed with 2M hydrochloric acid, water and dried over anhydrous magnesium sulfate. The solvent was evaporated to give trifluoro-methanesulfonic acid-4-formyl-2-trifluoromethoxy-phenyl ester (1.3 g, 3.85 mmol) as a brown oil. (±)-Tert-butylsulfinamine (0.311 g, 2.57 mmol) and titanium tetraethoxide (1.07 g, 4.69 mmol) were added to a solution of trifluoro-methanesulfonicacid-4-formyl-2-trifluoromethoxy-phenylester (0.791 g, 2.34 mmol) in dry tetrahydrofuran (20 ml) and the mixture stirred under nitrogen atmosphere at ambient temperature for 18 h. The reaction mixture was slowly added to a suspension of sodium borohyride (0.356 g, 9.4 mmol) in tetrahydrofuran at −50° C. and then allowed to warm to ambient temperature and left to stir for 1 h. The mixture was quenched with brine (50 ml) and ethyl acetate (50 ml) added. This mixture was filtered through a bed of dicalite and washed with copious amounts of water and ethyl acetate. The filtrate was phase separated, the organic phase dried over anhydrous magnesium sulfate and the solvent evaporated. Methanol (5 ml) was added to the residue and the mixture was poured onto an SCX column, washed with methanol and then eluted with 3M ammonia in methanol solution. The solvent was evaporated and the residue dissolved in 3M hydrogen chloride in diethyl ether solution. The solvent was evaporated to give trifluoro-methanesulfonicacid-4-aminomethyl-2-trifluoromethoxy-phenyl ester hydrochloride (0.184 g, 0.49 mmol) as a colourless solid. Trifluoro-methanesulfonicacid-4-aminomethyl-2-trifluoromethoxy-phenyl ester hydrochloride (0.184 g, 0.49 mmol) was suspended in dry tetrahydrofuran (3 ml). Di-tert-butyldicarbonate (0.108 g, 0.495 mmol) and triethylamine (0.198 g, 1.96 mmol) were added and the mixture stirred at ambient temperature for 2 h. The solvent was evaporated and the residue partitioned between water (10 ml) and ethyl acetate (10 ml). The organics phase was dried over anhydrous magnesium sulfate and the solvent evaporated to give trifluoro-methanesulfonicacid-4-(tert-butoxycarbonylaminomethyl)-2-trifluoromethoxy-phenyl ester (0.176 g, 0.407 mmol) as pale yellow oil. A mixture of trifluoro-methanesulfonicacid-4-(tert-butoxycarbonylaminomethyl)-2-trifluoromethoxy-phenyl ester (0.176 g, 0.407 mmol), 5-chloro-2-methoxypyridine boronic acid (0.151 g, 0.805 mmol), toluene (1 ml), ethanol (1 ml), 2M aqueous sodium carbonate solution (2 ml) and tetrakis(triphenylphosphine) palladium (0) was heated in a microwave oven at 120° C. for 15 min. The reaction mixture was quenched with brine and extracted with ethyl acetate. The combined extracts were filtered through dicalite and the filtrate dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue chromatographed on silica gel eluting with 6:40% heptane/ethyl acetate to give [4-(5-chloro-2-methoxypyridin-3-yl)-3-trifluoromethoxy-benzyl]-carbamic acid-tert-butyl ester (0.0745 g, 0.172 mmol) as a colourless solid. [4-(5-Chloro-2-methoxypyridin-3-yl)-3-trifluoromethoxy-benzyl]-carbamic acid-tert-butyl ester (0.0745 g, 0.172 mmol) was dissolved in dichloromethane (1 ml). Trifluoroacetic acid (1.485 g, 13 mmol) added and the solution stirred for 2 h at ambient temperature. The solvent was evaporated, the residue dissolved in methanol and then poured onto an SCX column. The column was washed with methanol and then eluted with ammonia in methanol solution. The solvent was evaporated to give 4-(5-chloro-2-methoxypyridin-3-yl)-3-trifluoromethoxy-benzylamine (0.045 g, 0.136 mmol) as oil. 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl chloride (0.0302 g, 0.122 mmol) and triethylamine (0.038 g, 0.384 mmol) were added to a solution of 4-(5-chloro-2-methoxypyridin-3-yl)-3-trifluoromethoxy-benzylamine (0.042 g, 0.128 mmol) in dry dichloromethane (1 ml) and the mixture stirred at ambient temperature for 18 h. The solvent was evaporated and the residue chromatographed on silica gel eluting with 4:6 heptane/ethyl acetate to give the title compound (0.039 g, 0.072 mmol) as a clear solid. MS (ESI) m/z: 545 [M+H]+.

reactant | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl chloride | 0.122 mmol, 0.0302 g | CN1N=C(C(=C1)S(=O)(=O)Cl)C(F)(F)F | C5H4ClF3N2O2S
reactant | triethylamine | 0.384 mmol, 0.038 g | C(C)N(CC)CC | C6H15N
reactant | 4-(5-chloro-2-methoxypyridin-3-yl)-3-trifluoromethoxy-benzylamine | 0.128 mmol, 0.042 g | ClC=1C=C(C(=NC1)OC)C1=C(C=C(CN)C=C1)OC(F)(F)F | C14H12ClF3N2O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid 4-(5-chloro-2-methoxy-pyridin-3-yl)-3-trifluoromethoxy-benzylamide | 0.072 mmol, 0.039 g | ClC=1C=C(C(=NC1)OC)C1=C(C=C(CNS(=O)(=O)C=2C(=NN(C2)C)C(F)(F)F)C=C1)OC(F)(F)F | C19H15ClF6N4O4S
